US06713471B1
To a solution of 2-(2-hydroxyethyl)isoindolinone (1.0 g, 5.64 mmol) in toluene (3.5 mL) was added thionyl chloride (1.34 g, 11.3 mmol). The reaction mixture was stirred at 20° C. for 3 h then 4 h at 60° C. The reaction mixture was concentrated in vacuo to remove excess thionyl chloride and toluene. 2-(2-Chloroethyl)isoindolinone (1.01 g, 92%) was obtained by flash chromatography on a silica gel column by elution with EtOAc/Hexanes a white solid. 1H NMR (CDCl3, 300 MHz) δ3.81 (t, 2H, J=5.5 Hz), 3.97 (t, 2H, J=5.9 Hz), 4.59 (s, 2H), 7.44-7.58 (m, 3H), 7.86 (d, 1H, J=6.9 Hz) ppm.

reactant | 2-(2-hydroxyethyl)isoindolinone | 5.64 mmol, 1.0 g | OCCN1C(C2=CC=CC=C2C1)=O | C10H11NO2
reactant | thionyl chloride | 11.3 mmol, 1.34 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chloroethyl)isoindolinone | 1.01 g, 92% | ClCCN1C(C2=CC=CC=C2C1)=O | C10H10ClNO
